US07902181B2
b) (S)-tert-Butyl 2-((S)-1-amino-3-(4-(3-(2-methoxyethyl)-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)phenyl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate
The sub-title compound was prepared by the method of Example 96 step (a) using 5-bromo-3-(2-methoxyethyl)benzo[d]oxazol-2(3H)-one and (S)-tert-butyl 2-((S)-1-amino-1-oxo-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ylcarbamoyl)piperidine-1-carboxylate.

reactant | 5-bromo-3-(2-methoxyethyl)benzo[d]oxazol-2(3H)-one | BrC=1C=CC2=C(N(C(O2)=O)CCOC)C1 | C10H10BrNO3
reactant | (S)-tert-butyl 2-((S)-1-amino-1-oxo-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ylcarbamoyl)piperidine-1-carboxylate | NC([C@H](CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=O | C26H40BN3O6
product | (S)-tert-Butyl 2-((S)-1-amino-3-(4-(3-(2-methoxyethyl)-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)phenyl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate | NC([C@H](CC1=CC=C(C=C1)C=1C=CC2=C(N(C(O2)=O)CCOC)C1)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=O | C30H38N4O7
